US08134015B2
2-Amino-5-chloro-benzoic acid methyl ester (1.5 g) was dissolved in anhydrous methylene chloride (25 ml). Pyridine (1.4 ml) and 3-(chloromethyl)benzoyl chloride (1.4 ml) were added dropwise to the solution at 0° C., and the mixture was then stirred at room temperature for 30 min. After the completion of the reaction, distilled water was added thereto at room temperature, and the mixture was subjected to separatory extraction with chloroform. The organic layer was then washed with saturated brine, was dried over sodium sulfate, and was then concentrated under the reduced pressure to precipitate crystals. The precipitated crystals were collected by filtration through Kiriyama Rohto and were washed with ether to give 5-chloro-2-(3-chloromethyl-benzoylamino)-benzoic acid methyl ester as a useful intermediate (2.4 g, yield 90%).

reactant | 2-Amino-5-chloro-benzoic acid methyl ester | 1.5 g | COC(C1=C(C=CC(=C1)Cl)N)=O | C8H8ClNO2
reactant | Pyridine | 1.4 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-(chloromethyl)benzoyl chloride | 1.4 ml | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-(3-chloromethyl-benzoylamino)-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)Cl)NC(C1=CC(=CC=C1)CCl)=O)=O | C16H13Cl2NO3
